** sch_path: /home/mehak/mehak_Analog_Bootcamp/analog/build/schematic/tb_dc_analysis.sch
**.subckt tb_dc_analysis
VDD net1 GND 1.8
VSS net3 GND 0
VCM net2 GND 0.9
VDIFF net4 net2 0
x1 net1 net5 net2 net4 net3 opamp_two_stage
**** begin user architecture code


.lib /home/mehak/.volare/volare/sky130/versions/fa87f8f4bbcc7255b6f0c0fb506960f531ae2392/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.dc VDIFF -0.01 0.01 0.0001
.save all


**** end user architecture code
**.ends

* expanding   symbol:  opamp_two_stage.sym # of pins=5
** sym_path: /home/mehak/mehak_Analog_Bootcamp/analog/symbols/opamp_two_stage.sym
** sch_path: /home/mehak/mehak_Analog_Bootcamp/analog/schematics/opamp_two_stage.sch
.subckt opamp_two_stage VDD VOUT VIN_M VIN_P VSS
*.ipin VIN_M
*.ipin VIN_P
*.iopin VDD
*.opin VOUT
*.iopin VSS
XM3 net1 VIN_M net3 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 VIN_P net3 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net3 net4 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R1 VDD net4 28k m=1
C1 net2 VOUT 1p m=1
XM8 net4 net4 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 VOUT net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=80 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 VOUT net4 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=30 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
